US09056859B2
To a mixture of ethyl (6-aminopyridin-3-yl)acetate (0.55 g, 3.05 mmol), CH(OEt)3 (1.35 g, 9.15 mmol) in AcOH (20 mL) was added NaN3 (0.24 g, 3.7 mmol) at room temperature. The mixture was heated to 80° C. and stirred for 3 hours. The mixture was concentrated under reduce pressure. Water was added, and the mixture was extracted with EtOAc. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, concentrated and the residue was purified by column chromatography via silica gel to give ethyl [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetate. 1H-NMR (400 MHz, CDCl3) δ 9.52 (s, 1H), 8.44 (s, 114), 8.06 (d, J=8.4 Hz, 1H), 7.94 (dd, J=2.4 Hz, 8.4 Hz, 1H), 4.20 (q, J=7.2 Hz, 2H), 3.72 (s, 2H), 1.27 (t, J=7.2 Hz, 3H).

reactant | ethyl (6-aminopyridin-3-yl)acetate | 3.05 mmol, 0.55 g | NC1=CC=C(C=N1)CC(=O)OCC | C9H12N2O2
reactant | CH(OEt)3 | 9.15 mmol, 1.35 g | C(OCC)(OCC)OCC | C7H16O3
reactant | NaN3 | 3.7 mmol, 0.24 g | [N-]=[N+]=[N-].[Na+]
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | ethyl [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetate | N1(N=NN=C1)C1=CC=C(C=N1)CC(=O)OCC | C10H11N5O2
